US05019577
A solution of di-tert-butyl-N (4-nitro-2-fluorobenzoyl)-(L)-glutamate (3.6 g, 8.4 mmoles) in 95% ethanol (100 mL) was mixed with 10% palladium on carbon (0.25 g) and placed on a Parr apparatus. The mixture was shaken under hydrogen atmosphere for 2 hours. The reaction mixture was filtered, spin evaporated, and dried to give a white solid, di-tert-butyl N-(4-amino-2-fluorobenzoyl)-(L)-glutamate yield, 3.0 g (91%); mp 91°-95° C.; 1H-NMR (CDCl3) δ 1.41 (s, 9H), 1.48 (s, 9H), 2.0-2.4 (m, 4H), 2.8 (br s, 2H), 4.71 (m, 1H), 6.34 (d, 1H), 6.48 (d, 1H), 7.17 (q, 1H), 7.86 (t, 1H); uv (MeOH) 280 nm max (16800), 238 min (2760), 212 sh (12100); mass spec (CI) m/e 397 (21 %), 341 (13), 285 (100).

reactant | di-tert-butyl-N (4-nitro-2-fluorobenzoyl)-(L)-glutamate | 8.4 mmoles, 3.6 g | C(C)(C)(C)OC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])F)=O)CCC(=O)OC(C)(C)C)=O | C20H27FN2O7
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
product | di-tert-butyl N-(4-amino-2-fluorobenzoyl)-(L)-glutamate | NC1=CC(=C(C(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C1)F | C20H29FN2O5
